US03971819
A. ethyl-3-allylamino-4-phenoxy-5-sulphamyl-benzoate
A mixture of 3-amino-4-phenoxy-5-sulphamyl-benzoic acid (3.08 g), allyl bromide (7.25 g), and dry ethanol was refluxed for 24 hours. After cooling, the precipitated ethyl-3-allylamino-4-phenoxy-5-sulphamyl-benzoate was filtered off and recrystallized from ethanol. The melting point of the ester was 153°-154°C.

reactant | 3-amino-4-phenoxy-5-sulphamyl-benzoic acid | 3.08 g | NC=1C=C(C(=O)O)C=C(C1OC1=CC=CC=C1)S(N)(=O)=O | C13H12N2O5S
reactant | allyl bromide | 7.25 g | C(C=C)Br | C3H5Br
reactant | ethanol | C(C)O | C2H6O
product | ethyl-3-allylamino-4-phenoxy-5-sulphamyl-benzoate | C(C)OC(C1=CC(=C(C(=C1)S(N)(=O)=O)OC1=CC=CC=C1)NCC=C)=O | C18H20N2O5S
